Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with hx remote paroxysmal afib presenting as 
transfer from OSH with c/o cough, n/diarrhea, and chest pain.  
Patient reports onset of cough/congestion 4d ago.  Cough 
productive of green sputum.  Had progressive fatigue, and 
yesterday had 6 episodes watery diarrhea with nonbloody emesis 
x1.  Denies fevers/chills although did not take temp at home, no 
recent travel or sick contacts

Yesterday evening then developed sharp left sided chest pain, 
left sided, ___, also involving left shoulder.  Pain lasted 
about 10mins and went away on its own, denies associated 
aggravating or releiving factors.  

He presented to ___ where initial EKG showed STE in I, avL.  
Patient received nitro/morphine x1 with improvement in chest 
pain, however became bradycardic to the ___ with SBP 73/44, 
received 0.5mg atropine.  Also received ASA 325, ceftriaxone, 
lovenox ___, toradol and 1L IVF.  Plan was for PCI but this 
was aborted after reviewing subsequent EKGs.  
Also ceftriaxone x1 and 2L IVF. Trop/MB neg x2, WBC @ 15.3 with 
52% bands.  He was transferred to our ED for further eval.    

In the ED, initial vitals:  99 87 126/68 18 96% 3L, Tm 104.9.  
Iniital labs notable for chem-7 with bicarb 21, Bun/Cr ___ 
(baseline 1.0).  CBC with plt 134, INR 1.3, lactate 2.5.  trop 
neg, LFTs WNL.  Patient was given tylenol, vanc/levofloxacin, 
oseltamivir and toradol x1, and 2L IVF.  CXR was done with 
evidence of bibasilar opacities concerning for rapidly 
developing pneumonia vs. alveolar hemorrhage.        

On arrival to the MICU, patient has no complaints.  Says he is 
feeling a little better.  Denies dyspnea, chest pain, abdominal 
pain, no further episodes emesis or diarrhea since yesterday.  
Denies hemoptysis.

 
Past Medical History:
Low back pain 
Disc disorder of lumbar region 
PROSTATITIS, UNSPEC 
H/O SCC left forehead ___ 
Atopic Dermatitis 
paroxysmal atrial fibrillation - noticed on ETT in ___, 
asymptomatic
 
Social History:
___
Family History:
Unknown/adopted

 
Physical Exam:
Admission Physical Exam:
========================
Vitals- T: 98.4  BP: 106/64  hr 87 94% 4L
General-  awake, alert, NAD
HEENT-  EOMI, PERRLA, OMM no lesions
Neck-  supple JVP mildly elevated at 30deg to under mandible
CV-  RRR, split s2 more prominent during inhalation, no murmurs
Lungs-  rhonchi bilaterally with fair air movement, + egophany 
LLB
Abdomen-  mildly distended/hypertympanic, no r/g/r, +BS
GU-  no foley
Ext-  WWP no c/c/e
Neuro-  CN II-XII intact, strength ___ in UE and ___ b/l

Dishcarge Physical Exam:
=========================
Vitals - 97.9, 126/88, HR 72, 18, 97% on RA
General-  awake, alert, NAD
HEENT-  EOMI, PERRLA, OMM no lesions
Neck-  supple JVP mildly elevated at 30deg to under mandible
CV-  RRR, split s2 more prominent during inhalation, no murmurs
Lungs-  CTAB, improved egophany LLB
Abdomen-  mildly distended/hypertympanic, no r/g/r, +BS
GU-  no foley
Ext-  WWP no c/c/e
Neuro-  CN II-XII intact, strength ___ in UE and ___ b/l

 
Pertinent Results:
ADMISSION LABS
===============
___ 05:05AM BLOOD WBC-6.8 RBC-4.95 Hgb-15.3 Hct-46.1 MCV-93 
MCH-30.9 MCHC-33.2 RDW-12.5 Plt ___
___ 05:05AM BLOOD ___ PTT-36.9* ___
___ 05:05AM BLOOD Glucose-127* UreaN-26* Creat-1.4* Na-137 
K-4.0 Cl-101 HCO3-21* AnGap-19
___ 05:05AM BLOOD Albumin-3.9
___ 05:25AM BLOOD Lactate-2.5*

DISCHARGE LABS
===============
___ 05:40AM BLOOD WBC-8.4 RBC-3.55* Hgb-11.0* Hct-32.9* 
MCV-93 MCH-30.9 MCHC-33.4 RDW-12.9 Plt ___
___ 05:40AM BLOOD Glucose-91 UreaN-10 Creat-0.9 Na-145 
K-3.4 Cl-106 HCO3-27 AnGap-15
___ 05:40AM BLOOD Calcium-7.4* Phos-3.3# Mg-1.9

IMAGING
=======
TTE:  Normal global and regional biventricular systolic 
function. No diastolic dysfunction, pulmonary hypertension or 
pathologic valvular abnormality seen. No pericardial effusion.  

CXR:
Short interval development of bibasilar opacities, which are 
concerning for a rapidly developing pneumonia versus alveolar 
hemorrhage. 

CT CHEST W/CONTRAST (___):  1.  Bilateral pleural effusions, 
moderate on the left side without evidence of empyema. 2.  
Multifocal airspace disease which is predominant at the  lung 
bases and is likely in keeping with multifocal pneumonia.  
Multiple mediastinal and hilar reactive lymph nodes are noted. 
3.  Incidental finding of a 6 mm non-obstructing stone in the 
upper pole of the left kidney. 
  

 
Brief Hospital Course:
BRIEF SUMMARY STATEMENT:  Mr. ___ is a ___ year old male with 
no significant medical history presenting as transfer from OSH 
with c/o cough, n/d/diarrhea, and chest pain found to have fever 
and hypoxia.  On further work-up, pt. was found to have a 
multifocal pneumonia.  Culture data was unrevealing.  Pt. was 
placed on antibiotics and continued to improve.  His O2 
requirement resolved and he was discharged with close follow-up. 
 

ACTIVE ISSUES
=============

# Sepsis and Community Acquired Pneumonia:  Mr. ___ 
presented with tachycardia, temp to 104, and multifocal 
opacities seen on CXR.  He was started on ceftriaxone and 
levofloxacin in accordance to ___ guidelines for community 
acquired pneumonia.  Respiratory viral panel negative, 
legionella negative, strep pneumo antigen negative, and cultures 
were unrevealing.  Pt. grew GPCs in clusters in blood ___ 
bottles) which raised concern for possible MRSA bacteremia from 
MRSA pneumonia.  Pt. has negative MRSA swab and without known 
MRSA risk factors.  TTE was negative for evidence of 
endocarditis and surveillance blood cultures were negative.  
Oxygen requirement had resolved by day 2 of admission and he was 
transferred to the floor.  He was transitioned to levofloxacin 
to complete his course of antibiotics.

# Chest Pain:  Pt. complained of left sided sharp chest pain 
made worse with coughing and deep breathing.  Most likely 
pleuritic chest pain from underlying inflammatory pleuritis from 
pneumonia.  Cardiac enzymes neg x2 making cardiac ischemia less 
likely.  No ischemic changes or other notable changes seen on 
ECG.  TTE done on ___ and was grossly normal with LVEF 60-65%.

# Abdominal Distension:  Initially, pt. presented with diarrhea, 
CDiff negative.  Continued to complain of abdominal distension.  
KUB showed multiple air filled loops of bowel without air fluid 
levels consistent with possible ileus.  Pt. continued to 
complain of minimal flatus, abdominal distension made worse with 
consuming POs, and minimal BMs.  Slowly, he began to tolerate PO 
intake.  At time of discharge, pt. was tolerating full liquids 
without issue.  He was encouraged to advance his diet as 
tolerated.  

# Anemia:  Patient with downtrending Hct throughout this 
admission. Initial and repeat DIC labs returned negative.  Most 
likely etiology ___ bone marrow suppression due to acute illness 
with possible suppression ___ medication effect. No signs of 
active bleeding.

# ___:  Pt. with evidence ___ on admission.  Likely pre-renal 
etiology in the setting of pneumonia and sepsis.  With IVF, pt's 
creatinine returned to baseline and ___ resolved.

CHRONIC ISSUES
==============
# BPH:  Stable.  Continued on flomax

TRANSITIONAL ISSUES
===================
# Antibiotics:  Pt. should continue levofloxacin for an 
additional 4 days to complete a 10 day course.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Docusate Sodium 200 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL 5 mL by mouth every 6 hours Disp #*1 
Bottle Refills:*0
4. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Pneumonia
Secondary: Ileus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you during your stay at ___. 
You were admitted after you were diagnosed with pneumonia. We 
started you on antibiotics and you improved. You also had issues 
with moving your bowels which resolved with conervative 
measures. Please continue a full liquid diet at home (soups, 
jello, shakes) and advance to regular diet slowly as tolerated.

___ MDs
 
Followup Instructions:
___